US09023852B2
1-[3-(4-Chloro-phenyl)-[1,2,4]thiadiazol-5-yl]-4-[2-fluoro-2-(4-methoxy-phenyl)-ethyl]-piperazine
A mixture of 2-(4-(3-(4-chlorophenyl)-1,2,4-thiadiazol-5-yl)piperazin-1-yl)-1-(4-methoxyphenyl)ethanol (30 mg, 69.6 μmol) and DAST (22.4 mg, 18.4 μl, 139 μmol) in 2 mL DCM at 0-5° C. was warmed to RT and stirred for 2 h. 10% aq. Na2CO3-solution was added and stirred for 10 min. The organic layer was separated and concentrated in vacuo. The residue was purified by column chromatography on silica eluting with a gradient formed from heptane and EtOAc to yield, after evaporation of the product containing fraction, 24 mg (80%) of the title compound as light yellow solid. MS (m/e): 433.3 (MH+).

reactant | 2-(4-(3-(4-chlorophenyl)-1,2,4-thiadiazol-5-yl)piperazin-1-yl)-1-(4-methoxyphenyl)ethanol | 69.6 μmol, 30 mg | ClC1=CC=C(C=C1)C1=NSC(=N1)N1CCN(CC1)CC(O)C1=CC=C(C=C1)OC | C21H23ClN4O2S
reactant | DAST | 139 μmol, 18.4 μl, 22.4 mg | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-[3-(4-Chloro-phenyl)-[1,2,4]thiadiazol-5-yl]-4-[2-fluoro-2-(4-methoxy-phenyl)-ethyl]-piperazine | ClC1=CC=C(C=C1)C1=NSC(=N1)N1CCN(CC1)CC(C1=CC=C(C=C1)OC)F | C21H22ClFN4OS
